US06307047B1
2-(3,4-Difluorophenyl)-4-(4-methyl-2-pentyloxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 178, starting with 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 4-methyl-2-pentanol for 2-ethyl-1-hexanol (yield: 115 mg, 50%). mp 132-133° C. 1H NMR (300 MHz, DMSO-d6) δ 0.80 (d, J=7 Hz, 3H), 0.87 (d, J=7 Hz, 3H), 1.10 (d, J=7 Hz, 3H), 1.26 (m, 1H), 1.50 (m, 1H), 1.63 (m, 1H), 3.30 (s, 3H), 5.31 (m, 1H), 7.52 (m, 1H), 7.62 (m, 1H), 7.81 (m, 1H), 7.90 (d, J=9 Hz, 2H), 8.08 (d, J=9 Hz, 2H), 8.22 (s, 1H). MS (APCI+) m/z 463 (M+H)+; (APCI−) m/z 497 (M+Cl)−. Anal. calc. for C23H24F2N2O4S: C, 59.72; H, 5.23; N, 6.05. Found: C, 59.44; H, 5.26; N, 5.99.

reactant | 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H18F2N2O6S2
reactant | 2-ethyl-1-hexanol | yield: 115 mg | C(C)C(CO)CCCC | C8H18O
product | 2-(3,4-Difluorophenyl)-4-(4-methyl-2-pentyloxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OC(C)CC(C)C)C1=CC=C(C=C1)S(=O)(=O)C | C23H24F2N2O4S
